US05728686
[1-(8-Bromo-3,7-dimethylxanthin-1-yl)methyl]dimethylphosphine Oxide
The title substance was prepared from 28 g (0.1 mol) of 8-bromo-3,7-dimethylxanthine sodium salt and chloromethyldimethylphosphine oxide analogously to Example 59 and chromatographed on silica gel.

reactant | 8-bromo-3,7-dimethylxanthine sodium salt | 0.1 mol, 28 g | [Na].BrC1=NC=2N(C(NC(C2N1C)=O)=O)C
reactant | chloromethyldimethylphosphine oxide | ClCP(C)(C)=O | C3H8ClOP
product | [1-(8-Bromo-3,7-dimethylxanthin-1-yl)methyl]dimethylphosphine Oxide | BrC1=NC=2N(C(N(C(C2N1C)=O)CP(C)(C)=O)=O)C | C10H14BrN4O3P
